US07109357B2
A solution of 4-amino-5-ethoxy-5H-furan-2-one (0.04 g, 0.30 mmol), (S)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (0.07 g, 0.30 mmol), diisopropylethylamine (0.12 mL, 0.66 mmol) and O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU) (0.14 g, 0.38 mmol) in dichloromethane (3 mL) was stirred 24 h, was evaporated, was redissolved in 1-methyl-pyrrolidinone (3 mL) and was stirred 3 d. The reaction was diluted with ethyl acetate, was washed with 10% sodium bisulfate, saturated sodium bicarbonate, and brine, was dried over sodium sulfate, and was evaporated. Purification by two flash chromatographies (SiO2), eluted first with 4:6, then with 35:65 ethyl acetate:hexanes afforded (R )-2-(2-ethoxy-5-oxo-2,5-dihydrofuran-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.009 g, 9% yield) as a film. 1H-NMR (500 MHz, CDCl3) δ 10.2 (br s, 0.7H), 10.1 (br s, 0.3H), 6.21 (br s, 0.7H), 6.17 (br s, 0.3H), 5.68 (s, 0.7H), 5.60 (br s, 0.3H), 4.38 (br s, 1H), 3.85 (m, 1H), 3.72 (m, 1H), 3.25-3.45 (m, 2H), 2.53 (br d, 12.5 Hz, 0.7H), 2.1 (br, 0.3H), 1.87 (br m, 3H), 1.44 (s, 9H), 1.21 (m, 3H) ppm. MS (ES+): m/e=341 (M+H).

reactant | 4-amino-5-ethoxy-5H-furan-2-one | 0.30 mmol, 0.04 g | NC1=CC(OC1OCC)=O | C6H9NO3
reactant | (S)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.30 mmol, 0.07 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)O | C10H17NO4
reactant | diisopropylethylamine | 0.66 mmol, 0.12 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.38 mmol, 0.14 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R )-2-(2-ethoxy-5-oxo-2,5-dihydrofuran-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.009 g, 9% yield | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(NC=1C(OC(C1)=O)OCC)=O | C16H24N2O6
